US07935841B2
Hydrogenation of (E)-2-Methylcinnamic Acid tert-butylamine salt
(R)-2-Methyl-3-phenylpropionic acid tert-butylamine salt, reaction time 40 minutes, conversion 100%. The free acid was liberated by partitioning between dichloromethane and 2M HCl. The organic layer was dried (Na2SO4), filtered and the solvent was evaporated, then the product was distilled (kugelrohr, 150° C., 0.5 mbar) to give (R)-2-Methyl-3-phenylpropionic acid as a colorless liquid. [α]D25-22.7, c=1.02, CHCl3. Lit. (E. Tyrell, M. W. H. Tang, G. A. Skinner and J. Fawcett, Tetrahedron, 1996, 52, 9841-9852, [α]D20-23.1 c=1, CHCl3). ee 85% (derivatised using TMS-diazomethane, Chirasil Dex CB column, 25 m×0.25 mm, injector/detector 200° C., helium 20 psi, 100° C. for 21 minutes then ramp at 15° C./min to 200° C., hold for 5 minutes, retention times R 30.40 minutes, S 31.06 minutes, (E)-methyl 2-methylcinnamate, 34.79 minutes). 1H NMR analysis of the (S)-methyl mandelate (E. Tyrell, M. W. H. Tang, G. A. Skinner and J. Fawcett, Tetrahedron, 1996, 52, 9841-9852) confirmed assignment of (R)-configuration.

reactant | TMS-diazomethane | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | (E)-methyl 2-methylcinnamate | CC1=C(/C=C/C(=O)OC)C=CC=C1 | C11H12O2
reactant | (S)-methyl mandelate | C([C@@H](O)C1=CC=CC=C1)(=O)OC | C9H10O3
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (E)-2-Methylcinnamic Acid tert-butylamine salt | C(C)(C)(C)N.CC1=C(/C=C/C(=O)O)C=CC=C1 | InChI=1S/C10H10O2.C4H11N/c1-8-4-2-3-5-9(8)6-7-10(11)12;1-4(2,3)5/h2-7H,1H3,(H,11,12);5H2,1-3H3/b7-6+;
